US08022062B2
4-(2,2-Dimethyl-propoxymethyl)-benzonitrile:
Add sodium bis(trimethylsilyl)amide (3 mL, 6 mmol, 2M solution in THF) to a solution of 2,2-dimethyl-1-propanol (528 mg, 6 mmol) in anhydrous 1,4-dioxane. Stir until the suspension becomes homogenous. Then add a solution of 4-cyanobenzyl bromide (980 mg, 5 mmol) in anhydrous 1,4-dioxane (3 mL). Heat the mixture in a microwave oven at 100° C. for 30 min. Cool to room temperature, add water (50 mL) and extract with EtOAc (3×50 mL). Dry the combined organic extracts over MgSO4, and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with isohexane/EtOAc (95:5 to 1:1 gradient) to obtain the desired intermediate (811 mg, 80%).

reactant | sodium bis(trimethylsilyl)amide | 6 mmol, 2M, 3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2,2-dimethyl-1-propanol | 6 mmol, 528 mg | CC(CO)(C)C | C5H12O
reactant | 4-cyanobenzyl bromide | 5 mmol, 980 mg | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | water | 50 mL | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-(2,2-Dimethyl-propoxymethyl)-benzonitrile | 811 mg, 80% | CC(COCC1=CC=C(C#N)C=C1)(C)C | C13H17NO
